US05521311
To 150 ml of a dichloromethane solution containing 15.0 g of N-(5-amino-2-phenoxyphenyl)methanesulfonamide and 4.7 g of pyridine was added 6.7 g of chloroacetyl chloride under ice-cooling, followed by stirring for an hour. Water was added to the reaction solution, followed by extraction with dichloromethane. The organic layer was successively washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. After evaporation of the solvent, the residue was recrystallized from ethyl acetate-n-hexane to give 14.4 g of N-(5-chloroacetylamino-2-phenoxyphenyl)methanesulfonamide as colorless crystals.

reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
reactant | N-(5-amino-2-phenoxyphenyl)methanesulfonamide | 15.0 g | NC=1C=CC(=C(C1)NS(=O)(=O)C)OC1=CC=CC=C1 | C13H14N2O3S
reactant | pyridine | 4.7 g | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 6.7 g | ClCC(=O)Cl | C2H2Cl2O
solvent | Water | O | H2O
product | N-(5-chloroacetylamino-2-phenoxyphenyl)methanesulfonamide | 14.4 g | ClCC(=O)NC=1C=CC(=C(C1)NS(=O)(=O)C)OC1=CC=CC=C1 | C15H15ClN2O4S
